Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea on exertion
 
Major Surgical or Invasive Procedure:
s/p TAVR ___
s/p EGD/Colonscopy ___ 

 
History of Present Illness:
___ female with past medical history
significant for rheumatic fever, HTN, Paget's disease,
pancreatitis, gout, diet controlled diabetes, mastectomy, CKD 
and
severe aortic stenosis.  Reports increasing shortness of breath
with exertion when she climbs a flight of stairs.  Denies
orthopnea or fatigue, syncope or chest pain.  She has new right
ankle swelling. She presented to ___ ___ for elective TAVR 
procedure. 

 
Past Medical History:
Past Medical History:
-ANEMIA                                                 
-BASAL CELL CARCINOMA w removal 
-GOUT                                                            

-HYPERLIPIDEMIA                                                  

-HYPERTENSION                                                    

-PAGET'S DISEASE                                                 

-PANCREATITIS                                                    

-PSORIASIS                                                       

-RHEUMATIC MITRAL                                                

-DIABETES, TYPE II                                               

     diet controlled
-AORTIC STENOSIS                                                 

                                     
                                  
Past Surgical History:
-mastectomy with reconstruction
-bunionectomy

 
Social History:
___
Family History:
Sister died at ___ of colon cancer. Father deceased from 
gastric
cancer.
 
Physical Exam:
ADMISSION PE: 
VS:  119/56, 69, 20, 100% 2L

EKG: Rate 70, SR with 1st degree AVB 0.30/0.12/0.44

General: Awake, pleasant lying flat in bed in PACU, NAD
Neuro: Alert and oriented. Pleasant and cooperative. PERRLA
Speech clear, appropriate and comprehensible. Tongue midline,
smile symmetric. 
HEENT: Neck supple, No JVD noted
CV: RRR  no M/R/G
Lungs: Clear bilat, posterior and anteriorly, non-labored. No 
use
of accessory muscles noted.
GI/Abdomen: soft, non-tender
PV: WWP, + pedal pulses, No edema.
Access sites: Bilat femoral sites without hematoma  
==============
DISCHARGE PE:
weight:56.3 kg (124.12 lb)  
VS:Temp: 98.0 (Tm 98.7), BP: 97/58 (94-135/56-68), HR: 70 
(70-82), RR: 20 (___), O2 sat: 97% (97-99), O2 delivery: RA  
General: Awake, pleasant lying flat in bed in PACU, NAD
Neuro: Alert and oriented. Pleasant and cooperative. PERRLA
Speech clear, appropriate and comprehensible. Tongue midline,
smile symmetric. 
HEENT: Neck supple, No JVD noted
CV: RRR  no M/R/G
Lungs: Clear bilat, posterior and anteriorly, non-labored. No 
use
of accessory muscles noted.
GI/Abdomen: soft, non-tender
PV: WWP, + pedal pulses, No edema.
Access sites: Bilat femoral sites without hematoma. L site with 
moderate ecchymosis but soft, nontender.  

 
Pertinent Results:
Admission: 
___ 07:30AM BLOOD WBC-5.7 RBC-2.15* Hgb-6.7* Hct-21.7* 
MCV-101* MCH-31.2 MCHC-30.9* RDW-14.0 RDWSD-51.7* Plt ___
___ 07:30AM BLOOD Glucose-107* UreaN-33* Creat-2.6* Na-144 
K-4.0 Cl-109* HCO3-17* AnGap-18
___ 07:30AM BLOOD ALT-14 AST-25 AlkPhos-69 TotBili-0.2
___ 10:06AM BLOOD Calcium-8.7 Phos-3.9 Mg-2.2

Discharge: 
___ 06:27AM BLOOD WBC-7.4 RBC-3.01* Hgb-9.0* Hct-28.8* 
MCV-96 MCH-29.9 MCHC-31.3* RDW-14.9 RDWSD-52.3* Plt ___
___ 06:27AM BLOOD Glucose-85 UreaN-29* Creat-2.4* Na-140 
K-4.0 Cl-108 HCO3-18* AnGap-14
___ 06:27AM BLOOD Mg-2.0

TAVR report ___: 

Interventional Details
The patient was counseled extensively regarding the risks, 
benefits, and alternatives to the procedure and after answering 
all questions, the patient yielded informed consent. The patient 
was thereafter brought tothe catheterization laboratory and 
monitored anesthesia care was delivered. Preprocedural 
antibiotic was administered intravenously. The nature of this 
procedure required multidisciplinary planning and management 
with the cardiac surgery, interventional cardiology and 
anesthesia physicians. All members of the heart team were 
present for the following key components of the procedure 
according ___ guidelines: Vascular access Catheter placement, 
Device implantation, Vascular closure, Intraprocedural 
medication ordering. Sterile technique was used throughout the 
case. All vascular access was obtained using modified Seldinger 
technique and ultrasound guidance. An ___ sheath was placed in 
the left femoral vein and ___ sheaths were placed in the right 
and left femoral artery. The ___ sheath in the right femoral 
artery was removed and the arteriotomy was measured with the 
Manta device, and the access site was upsized to an ___ sheath. A 
___ Angled Pigtail catheter was advanced to the aortic root via 
the left femoral artery sheath and aortic root angiography was 
performed. A temporary pacing wire was placed in the right 
ventricle via the left femoral vein sheath. Next, the ___ sheath 
in the right femoral artery was exchanged over an Amplatz 
Extrastiff for the ___ sheath. A pigtail catheter was advanced 
to the aortic root. Using a 0.035" straight wire, the aortic 
valve was crossed. Over the wire, the angled pigtail catheter 
was advanced across the valve. Baseline hemodynamics (left heart 
catheterization) were obtained. A preshaped curved wire was 
advanced into the LV and the JR-4 catheter was removed. Next, 
the Enveo delivery system was delivered to the ascending aorta 
and the aortic valve was crossed in a retrograde fashion. After 
confirming appropriate placement across the aortic valve using 
aortic root angiogaphy, the valve was deployed with rapid 
ventricular pacing at 100 bpm. Echocardiography and aortic root 
angiography revealed a well-placed and well-seated valve, with 
no aortic regurgitation. Next, the delivery catheter system was 
removed. An angled pigtail catheter was advanced into the LV and 
repeat hemodynamics (left heart catheterization) were obtained.

The sheath was removed over a wire, and the right femoral artery 
device access site was successfully closed using the Manta 
device. The contralateral arteriotomy was closed with an 
Angioseal device. The
temporary pacemaker was removed, and manual compression 
hemostasis was applied to the venous sheath. The patient 
tolerated the procedure well. Patient was transferred to the CV 
Post Anesthesia care
unit for further management.
Complications: There were no clinically significant 
complications. Of note, her Hb was noted to be low pre-procedure 
(on routine pre-procedure labs). No active bleeding reported 
and/or noted. Decision was
made to give her 2 units PRIOR to the TAVR, routinely before the 
procedure.
I was physically present during all critical and key components 
of the procedure and in compliance with the CMS regulations.

TTE ___: 
Pre-TAVR: There is suboptimal image quality to assess regional 
left ventricular function. Overall left
ventricular systolic function is normal. The right ventricle has 
normal free wall motion. The aortic valve leaflets
are severely thickened. There is SEVERE aortic valve stenosis 
(valve area 1.0 cm2 or less). There is mild [1+]
mitral regurgitation.
Post-TAVR: The Evolut Pro TAVR prosthesis is well seated with 
normal leaflet motion and normal gradient.
There is a paravalvular jet of trace aortic regurgitation is 
seen.

TTE ___: The left atrial volume index is normal. There is no 
evidence for an atrial septal defect by 2D/color Doppler. The 
estimated right atrial pressure is ___ mmHg. There is mild 
symmetric left ventricular hypertrophy with a normal cavity 
size. There is normal regional and global left ventricular 
systolic function. Quantitative biplane left ventricular 
ejection fraction is 60 % (normal 54-73%). There is no resting 
left ventricular outflow tract gradient. No ventricular septal 
defect is seen. Tissue Doppler suggests an increased left 
ventricular filling
pressure (PCWP greater than 18 mmHg). Normal right ventricular 
cavity size with normal free wall motion. The aortic sinus 
diameter is normal for gender with a normal ascending aorta 
diameter for gender. The aortic
arch diameter is normal with a normal descending aorta diameter. 
An Evolut Pro aortic valve bioprosthesis is present. The 
prosthesis is well seated with normal gradient. There is no 
aortic regurgitation. The mitral valve
leaflets appear structurally normal with no mitral valve 
prolapse. There is trivial mitral regurgitation. The pulmonic 
valve leaflets are not well seen. There is mild pulmonic 
regurgitation. The tricuspid valve is not well
seen. There is physiologic tricuspid regurgitation. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion.
Compared with the prior TTE (images reviewed) of ___ , no 
aortic regurgitation is seen. The degree of mitral regurgitation 
has also decreased.

EGD/Colonoscopy ___: See full detailed report. EGD showed 
gastric angioectasias that were APC'd
Colonoscopy was unrevealing

 
Brief Hospital Course:
Assessment: ___ year old woman s/p TAVR with 29 Evolute Pro
valve found to be markedly anemic on admission now stable s/p 2
units PRBCs and EGD/colonoscopy. 

# Aortic Stenosis: s/p TAVR with 29mm Evolute pro. Pre-TAVR 
peak/mean gradient 52/28mmHG ___ 0.6cm2. Post-TAVR ___ ___ 
1.3cm2.
  -Anticoagulation: CONTINUE aspirin 81mg, no clopidogrel or 
additional agent at this time given increased bleeding risk.
  -___ education reinforced (daily weights, low Na diet)on 
discharge
  -Groin precautions/activity restrictions reviewed on discharge 

  -SBE prophylaxis education on discharge
  -Follow up with ___ cardiology NP ___ 
  -Follow up with structural heart with concurrent echo as 
scheduled 

# Acute on chronic Anemia: s/p EGD/ colonoscopy. EGD showed
gastric angioectasias that were APC'd. Colonoscopy was
unrevealing. Appreciate recommendations per GI: 
-STOP omeprazole
-START pantoprazole 40mg daily 
-Outpatient CBC ___, results to PCP 
-___ up with PCP ___ (assess ongoing anemia) 
-Follow up with Dr. ___ for ___. 

# Chronic kidney disease: Baseline creatinine mid 2's with peak
2.6. ___ creat 2.6 --> ___ creat 2.4--> ___ creat 2.6--> ___ 
creat 2.4. 
-Renal dose medications  

# Coronary artery disease: non obstructive. 
 -Continue aspirin 81mg daily 
 -Continue Crestor
 -Heart healthy diet
- Follow up with ___ cardiology NP ___  

# GERD: stable
- START pantoprazole as above

# Hypertension: Clinically stable.
  - Continue Amlodipine

# Hyperlipidemia: ___  Choles: 155 Trig: 118  HDL: 67 
Chol/hd 2.3 LDL 641 
  - Continue Crestor as current dose 

# Diabetes: diet controlled
  - Continue carbohydrate controlled diet

# Gout: stable
 - Continue Febuxostat

 # DISPO:  d/c home
    
 # Transitional issues: 
-PCP to follow up on outpatient CBC ___
-PCP to ___ up from CTA ___: 
 2. Scattered ground-glass nodules measuring up to 7 mm in the
right lower lobe.  Follow-up recommendations per ___ 
___
guidelines as outlined 
below. 
3. Conspicuous 5 mm anterior mediastinal lymph node. Attention 
on
follow-up is recommended. 
  
RECOMMENDATION(S):  For incidentally detected multiple subsolid
nodules bigger than 6mm, CT follow-up in 3 to 6 months is
recommended. Subsequent management 
should be based on the most suspicious nodule(s). 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Febuxostat 40 mg PO QHS 
2. Metoprolol Succinate XL 25 mg PO BID 
3. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
4. amLODIPine 2.5 mg PO BID 
5. darbepoetin alfa in polysorbat 60 mcg/mL injection Q month 
6. Rosuvastatin Calcium 20 mg PO QPM 
7. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN angina 
8. Omeprazole 40 mg PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Ergocal (ergocalciferol (vitamin D2)) ___ units oral Q 
month 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q24H  
2.  amLODIPine 2.5 mg PO BID  
3.  Aspirin 81 mg PO DAILY  
4.  darbepoetin alfa in polysorbat 60 mcg/mL injection Q month  
5.  Ergocal (ergocalciferol (vitamin D2)) ___ units oral Q 
month  
6.  Febuxostat 40 mg PO QHS  
7.  Metoprolol Succinate XL 25 mg PO BID  
8.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN angina  
9.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
10.  Rosuvastatin Calcium 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Severe Aortic Stenosis s/p TAVR 
Acute on Chronic anemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for a trans catheter aortic valve replacement 
(TAVR) to treat your aortic valve stenosis which was done on 
shortness of breath. By repairing the valve your heart can pump 
blood more easily and your shortness of breath should improve. 

We found your blood levels to be critically low when you were 
admitted. We consulted GI and you had an EGD/colonoscopy. They 
found where you were bleeding from in your stomach. Your blood 
levels are now stable. Please have your labs checked as an 
outpatient next week and follow up with your GI doctor. 

 It is very important to take all of your heart healthy 
medications. In particular, you are now taking Aspirin. This 
medication helps to prevent blood clots from forming on the new 
valve. If you stop this medication or miss ___ dose, you risk 
causing a blood clot forming on your new valve. This could cause 
it to malfunction and it may be life threatening. Please do not 
stop taking Aspirin without taking to your heart doctor, even if 
another doctor tells you to stop the medications.  

 You will need prophylactic antibiotics prior to any dental 
procedure. Please inform your dentist about your recent cardiac 
procedure, and obtain a prescription from your doctor before any 
procedure.
  
 Please weigh yourself every day in the morning after you go to 
the bathroom and before you get dressed. If your weight goes up 
by more than 3 lbs in 1 day or more than 5 lbs in 3 days, please 
call your heart doctor or your primary care doctor and alert 
them to this change. Your weight at discharge is 124.12 lb.  
 
 We may have made changes to your medication list, so please 
make sure to take your medications as directed. You will also 
need to have close follow up with your heart doctor and your 
primary care doctor.
  
 If you were given any prescriptions on discharge, any future 
refills will need to be authorized by your outpatient providers, 
primary care or cardiologist.  

 If you have any urgent questions that are related to your 
recovery from your procedure or are experiencing any symptoms 
that are concerning to you and you think you may need to return 
to the hospital, please call the ___ Heart Line at 
___ to speak to a cardiologist or cardiac nurse 
practitioner.  

 It has been a pleasure to have participated in your care and we 
wish you the best with your health.  

 
Followup Instructions:
___